US06420555B1
Preparation 6: 1-Methylsulfonyl-3-(3-chlorophenyl)-5-(4-chlorobenzoyl)indoline
To a solution of 1-methylsulfonyl-3-(3-chlorophenyl)indoline (4.40 g, 14.3 mmol, see Preparation 5) and 4-chlorobenzoyl chloride (3.25 g, 18.6 mmol) in CS2 (25 mL) was added portionwise AlCl3 (7.62 g, 57.2 mmol) at about 0° C. A brown precipitate formed immediately. The mixture was stirred for about 2 hours. To the mixture was added slowly 100 mL of cold water containing 3 mL of concentrated HCl. The solution was diluted with DCM and the organic layer was separated and washed with 1N HCl aqueous solution (2 times), saturated NaHCO3 aqueous solution (2 times) and brine (2 times), dried over anhydrous MgSO4, filtered and concentrated in vacuo. The crude product was purified by column chromatography on silica, eluting with EtOAc/hexane 1:2. The title compound was obtained as a solid. Yield=3.90 g, 61%. Rf=0.24 (silica, EtOAc/hexane 1:2). MS (ES): 445.2; Calc. MW=445.4, 1H NMR (300 MHz, CDCl3) δ: 7.67-7.76 (m, 3H), 7.53-7.59 (m, 2H), 7.48 (s, 1H), 7.44 (s, 1H), 7.30-7.32 (m, 2H), 7.20 (m1H), 7.09-7.14 (m, 1H), 4.65 (t, 1H), 4.50 (t, 1H), 3.98 (dd, 1H), 3.02 (s, 3H).

reactant | 1-methylsulfonyl-3-(3-chlorophenyl)indoline | 14.3 mmol, 4.40 g | CS(=O)(=O)N1CC(C2=CC=CC=C12)C1=CC(=CC=C1)Cl | C15H14ClNO2S
reactant | 4-chlorobenzoyl chloride | 18.6 mmol, 3.25 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | AlCl3 | 57.2 mmol, 7.62 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | CS2 | 25 mL | C(=S)=S | CS2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 1-Methylsulfonyl-3-(3-chlorophenyl)-5-(4-chlorobenzoyl)indoline | CS(=O)(=O)N1CC(C2=CC(=CC=C12)C(C1=CC=C(C=C1)Cl)=O)C1=CC(=CC=C1)Cl | C22H17Cl2NO3S
